US08334288B2
Piperidinemethanol (10.7 g, 93 mmol) is dissolved in DMA (60 mL), treated with 2-chloro-5-ethylpyrimidine (14.57 g, 102 mmol) and K2CO3 (19.3 g, 140 mmol) and heated to 130° C. overnight. The solid is filtered, washed with DMA and discarded. The filtrate is evaporated and the crude purified by flash chromatography (EtOAc/hexanes gradient) to afford (1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)methanol A1a as yellow oil: 1H-NMR (400 MHz, CDCl3) δ=8.16 (s, 2H), 4.75-4.72 (m, 2H), 3.53 (d, J=6.0 Hz, 2H), 2.91-2.83 (m, 2H), 2.45 (q, J=7.6 Hz, 2H), 1.84-1.73 (m, 3H), 1.27-1.20 (m, 2H), 1.18 (t, J=7.6 Hz, 3H); MS calcd. for [M+H]+ C12H20N3O: 222.1. found: 222.1.

reactant | Piperidinemethanol | 93 mmol, 10.7 g | N1(CCCCC1)CO | C6H13NO
reactant | 2-chloro-5-ethylpyrimidine | 102 mmol, 14.57 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | K2CO3 | 140 mmol, 19.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 60 mL | CC(=O)N(C)C | C4H9NO
product | (1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)methanol | C(C)C=1C=NC(=NC1)N1CCC(CC1)CO | C12H19N3O
